US08455521B2
A mixture of (S)-3-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-ylcarbamoyl)benzoic acid (0.923 g, 1.77 mmol, 1.0 equiv), obtained as described above, N,O-dimethylhydroxylamine hydrochloride (0.378 g, 2.2 equiv), EDC (0.600 g, 1.8 equiv), HOBt (0.384 g, 1.6 equiv), and DIEA (3 mL, 9.7 equiv) in CH2Cl2 (20 mL) was stirred at rt for 3 d. The reaction mixture was diluted with brine and extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4. After the solvent was removed, the crude product was purified by chromatography on a 40-g silica gel cartridge eluted with a gradient from 0% to 40% EtOAc in hexanes to give (S)—N1-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)-N3-methoxy-N3-methylisophthalamide (0.7388 g, 83%). TLC rf=0.38 (50% EtOAc in hexanes); LC-MS (3 min) tR=2.12 min, m/z 528 (MNa+), 506 (M+H+), 478; 1H NMR (400 MHz, CDCl3) δ 8.09 (s, 1H), 7.84 (dt, J=7.9, 1.5 Hz, 1H), 7.75 (d, J=7.6 Hz, 1H), 7.42 (t, J=7.8 Hz, 1H), 677 (d, J=8.2 Hz, 1H), 4.48-4.39 (m, 1H), 4.11-3.97 (m, 2H), 3.72 (dd, J=14.3, 10.5 Hz, 1H), 3.54 (s, 3H), 3.33 (s, 3H), 3.01 (dd, J=14.3, 4.1 Hz, 1H), 2.90 (s, 3H), 1.85-0.80 (m, 15H), −0.06 (s, 9H); 13C NMR (100 MHz, CDCl3) δ 169.03, 166.25, 158.12, 134.41, 130.84, 128.80, 128.12, 126.89, 63.75, 61.06, 52.51, 46.78, 40.64, 34.60, 34.35, 33.53, 33.15, 26.36, 26.13, 26.06, 17.56, −1.61.

reactant | (S)-3-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-ylcarbamoyl)benzoic acid | 1.77 mmol, 0.923 g, 1.0 equiv | C1(CCCCC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(=O)C=1C=C(C(=O)O)C=CC1 | C24H38N2O5Si
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.378 g, 2.2 equiv | Cl.CNOC
reactant | EDC | 0.600 g, 1.8 equiv
reactant | HOBt | 0.384 g, 1.6 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 3 mL, 9.7 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | (S)—N1-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)-N3-methoxy-N3-methylisophthalamide | 0.7388 g, 83% | C1(CCCCC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(C1=CC(C(=O)N(C)OC)=CC=C1)=O | C26H43N3O5Si
